US07262212B2
3-(4-Trifluoromethylphenyl)-2-propenyl (S)-4-[3-(2-bromo-4-nitroimidazol-1-yl)-2-hydroxy-2-methylpropyl]piperazine-1-carboxylate (3.5 g, 6.07 mmol) was dissolved in N,N′-dimethylformamide (10.5 ml), and sodium hydride (316 mg, 7.89 mmol) was added while cooling on ice followed by stirring at the same temperature for 1.5 hours. To the reaction solution, ethyl acetate (3.5 ml) and water (24.5 ml) were added followed by stirring for 30 minutes. The precipitated crystals were filtered off, washed with water, and purified by silica gel column chromatography (ethyl acetate). Recrystallization from 2-propanol/water gives a light yellow powder of 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate (2.07 g, 69%).

reactant | 3-(4-Trifluoromethylphenyl)-2-propenyl (S)-4-[3-(2-bromo-4-nitroimidazol-1-yl)-2-hydroxy-2-methylpropyl]piperazine-1-carboxylate | 6.07 mmol, 3.5 g | BrC=1N(C=C(N1)[N+](=O)[O-])C[C@@](CN1CCN(CC1)C(=O)OCC=CC1=CC=C(C=C1)C(F)(F)F)(C)O | C22H25BrF3N5O5
reactant | sodium hydride | 7.89 mmol, 316 mg | [H-].[Na+]
reactant | ethyl acetate | 3.5 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 24.5 ml | O | H2O
solvent | N,N′-dimethylformamide | 10.5 ml | CN(C)C=O | C3H7NO
product | 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate | 2.07 g, 69% | C[C@@]1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C(=O)OCC=CC2=CC=C(C=C2)C(F)(F)F | C22H24F3N5O5
